* File: NAND2D4.cdl.pex
* Created: Sat Aug 17 14:17:48 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D4%IN1 5 6 9 13 15 17 18 19 21 23 24 25 27 29
c35 31 0 0.0486278f
c36 29 0 0.419294f
c37 27 0 0.376832f
c38 25 0 0.501194f
c39 24 0 0.0600617f
c40 23 0 0.550567f
c41 21 0 0.00910706f
c42 19 0 0.062787f
c43 18 0 0.0129893f
c44 17 0 0.303173f
c45 15 0 0.233607f
r46 23 29 0.266186
r47 23 24 15.3333
r48 22 31 0.055023
r49 21 27 0.266186
r50 21 22 0.833333
r51 18 25 0.266186
r52 17 24 0.279364
r53 16 31 0.211723
r54 16 17 2.66667
r55 15 31 0.211723
r56 14 19 0.279364
r57 14 15 2.33333
r58 13 18 0.666667
r59 13 19 0.166667
r60 9 29 2.5
r61 6 27 5
r62 5 25 5
.ends

.subckt PM_NAND2D4%IN2 5 6 9 13 14 16 18 20 21 22 23 26 28
c32 30 0 0.0486278f
c33 28 0 0.535243f
c34 26 0 0.23636f
c35 23 0 0.011873f
c36 22 0 0.0253531f
c37 21 0 0.0144822f
c38 20 0 0.0932804f
c39 18 0 0.39409f
c40 16 0 0.517671f
c41 14 0 0.518308f
r42 27 30 0.211723
r43 27 28 4.83333
r44 26 30 0.211723
r45 25 26 2.33333
r46 22 30 0.055023
r47 20 25 0.279364
r48 20 21 1.33333
r49 18 28 0.831548
r50 16 23 0.266186
r51 14 21 0.266186
r52 13 22 0.5
r53 13 23 0.833333
r54 9 18 2.5
r55 6 16 5
r56 5 14 5
.ends

.subckt PM_NAND2D4%VDD 1 6 15
c17 15 0 1.47202f
c18 6 0 2.49711f
r19 1 6 0.149333
r20 1 15 0.0233333
.ends

.subckt PM_NAND2D4%net7 1 2 19 41 42 43 48 54 55 56 58 66
c48 66 0 0.0420682f
c49 58 0 0.0317895f
c50 56 0 0.0338147f
c51 55 0 0.0433548f
c52 54 0 0.0267505f
c53 48 0 0.054942f
c54 43 0 0.144504f
c55 42 0 0.427669f
c56 41 0 0.205146f
c57 19 0 0.337208f
c58 2 0 0.369674f
r59 66 68 0.0933333
r60 57 68 0.00411102
r61 56 58 0.0517064
r62 56 57 0.116667
r63 54 66 0.00411102
r64 54 55 0.0933333
r65 42 55 0.0517064
r66 41 48 0.0800468
r67 40 43 0.0800468
r68 40 41 0.735
r69 19 58 0.0661111
r70 2 48 0.0661111
r71 1 42 0.0661111
r72 1 43 0.0661111
.ends

.subckt PM_NAND2D4%OUT 1 10 15 28 29 35 38 39 46
c41 46 0 0.0332688f
c42 39 0 0.0984753f
c43 38 0 0.106277f
c44 35 0 0.0525561f
c45 29 0 0.335964f
c46 15 0 0.425169f
r47 38 39 0.0838175
r48 37 38 0.315
r49 35 37 0.039111
r50 35 46 0.0933333
r51 29 46 0.0532251
r52 15 28 0.237222
r53 10 28 0.0116667
r54 10 39 0.0155556
r55 1 29 0.0661111
.ends

.subckt PM_NAND2D4%VSS 1 2 27 28 34 41
c37 41 0 0.172669f
c38 34 0 0.466718f
c39 28 0 3.99703f
r40 40 41 0.653333
r41 34 41 0.0800468
r42 28 40 0.0679156
r43 2 34 0.0661111
r44 1 28 0.0746667
r45 1 27 0.0466667
.ends

