* File: NAND2D8.cdl.pex
* Created: Sat Aug 17 14:21:51 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D8%IN1 5 6 11 12 15 21 24 26 29 33 34 35 36 39 43 44 46 48 55 56
+ 58 60 63 70
c105 70 0 0.109415f
c106 63 0 0.0080967f
c107 60 0 0.0555465f
c108 58 0 0.0133636f
c109 56 0 0.114502f
c110 55 0 0.0573541f
c111 48 0 0.555527f
c112 46 0 0.65348f
c113 44 0 0.0520161f
c114 43 0 0.026478f
c115 39 0 0.128527f
c116 36 0 0.026962f
c117 35 0 0.800133f
c118 34 0 0.0359052f
c119 33 0 0.0463622f
c120 29 0 0.138226f
c121 26 0 0.493095f
c122 24 0 0.546629f
c123 21 0 0.0837534f
r124 62 63 0.0417772
r125 62 70 0.443333
r126 55 70 0.0684127
r127 55 56 0.488662
r128 53 63 0.0233333
r129 45 58 0.055023
r130 44 46 0.266186
r131 44 45 1.91667
r132 43 60 1.91667
r133 40 58 0.211723
r134 40 56 2.83333
r135 39 58 0.211723
r136 38 43 0.279364
r137 38 39 2.41667
r138 35 53 0.642331
r139 33 36 0.266186
r140 33 34 1
r141 31 34 0.279364
r142 28 29 2.41667
r143 26 29 0.831548
r144 24 28 0.831548
r145 21 31 0.666667
r146 21 29 0.916667
r147 15 35 5
r148 15 36 5
r149 12 46 5
r150 11 48 0.125
r151 11 60 0.407372
r152 11 48 4.875
r153 6 26 5
r154 5 24 5
.ends

.subckt PM_NAND2D8%IN2 5 6 11 12 15 21 24 26 28 30 31 33 34 37 38 39 40 41 43 44
+ 46 50 52 54 55
c100 55 0 0.0141234f
c101 54 0 0.0136827f
c102 52 0 0.547075f
c103 50 0 0.534161f
c104 46 0 0.101211f
c105 44 0 0.026962f
c106 43 0 0.0822674f
c107 41 0 0.0212636f
c108 40 0 0.723379f
c109 39 0 0.025732f
c110 38 0 0.15804f
c111 37 0 0.189202f
c112 34 0 0.127131f
c113 33 0 0.126536f
c114 31 0 0.0174046f
c115 30 0 0.0488849f
c116 28 0 0.0703847f
c117 26 0 0.636268f
c118 24 0 0.541749f
c119 21 0 0.0833925f
r120 52 57 0.137684
r121 46 50 0.831548
r122 45 57 1.10294
r123 45 46 2.41667
r124 43 48 0.279364
r125 43 44 1
r126 40 44 0.266186
r127 38 41 0.266186
r128 38 39 3.25
r129 37 39 0.279364
r130 36 37 4.83333
r131 35 55 0.211723
r132 34 36 0.279364
r133 34 35 1.83333
r134 33 55 0.055023
r135 32 33 2.41667
r136 30 55 0.211723
r137 30 31 1.58333
r138 28 32 0.279364
r139 28 54 1.58333
r140 26 31 0.266186
r141 24 54 0.282372
r142 21 48 0.75
r143 21 46 0.833333
r144 15 40 5
r145 15 41 5
r146 12 50 5
r147 11 57 0.157448
r148 11 52 4.875
r149 6 26 5
r150 5 24 5
.ends

.subckt PM_NAND2D8%VDD 1 10 27
c46 27 0 2.15477f
c47 10 0 4.09557f
c48 1 0 1.63515f
r49 10 27 0.217
r50 1 27 0.137667
.ends

.subckt PM_NAND2D8%net11 1 2 19 41 43 44 45 46 47 52 58 59 62 68 69 73
c52 73 0 0.0612374f
c53 69 0 0.0383737f
c54 68 0 0.0255928f
c55 62 0 0.0555874f
c56 59 0 0.0477893f
c57 58 0 0.0288473f
c58 52 0 0.0783807f
c59 47 0 0.0746245f
c60 46 0 0.469541f
c61 45 0 0.0568145f
c62 44 0 0.0233151f
c63 43 0 0.058387f
c64 41 0 0.500076f
c65 19 0 0.339427f
c66 2 0 0.473904f
r67 69 71 0.0816667
r68 62 73 0.0550476
r69 61 69 0.00411102
r70 61 73 0.198333
r71 58 71 0.00411102
r72 58 59 0.105
r73 47 68 0.0532251
r74 46 59 0.0517064
r75 44 52 0.0517064
r76 44 45 0.0933333
r77 43 68 0.0933333
r78 41 45 0.039111
r79 40 43 0.039111
r80 40 41 0.735
r81 19 62 0.0661111
r82 2 52 0.0661111
r83 1 46 0.0661111
r84 1 47 0.0661111
.ends

.subckt PM_NAND2D8%OUT 1 10 19 28 53 54 60 63 65 70 72 76 78 79 80 86 88 89 95
+ 97 98 99 103 105
c114 105 0 0.0406618f
c115 103 0 0.0176494f
c116 99 0 0.0514559f
c117 98 0 0.0511389f
c118 97 0 0.342006f
c119 95 0 0.0305361f
c120 89 0 0.0305361f
c121 88 0 0.0253486f
c122 86 0 0.0593995f
c123 80 0 0.0346812f
c124 79 0 0.409013f
c125 78 0 0.0125753f
c126 76 0 0.0301641f
c127 72 0 0.18832f
c128 70 0 0.0459907f
c129 65 0 0.0645813f
c130 63 0 0.0598485f
c131 60 0 0.066127f
c132 54 0 0.352247f
c133 10 0 0.352247f
r134 99 101 0.116667
r135 97 98 0.0723016
r136 89 105 0.0532251
r137 88 105 0.233333
r138 85 88 0.039111
r139 85 86 0.245
r140 80 103 0.0532251
r141 79 86 0.0800468
r142 78 103 0.0816667
r143 76 78 0.039111
r144 75 76 0.14
r145 73 99 0.00411102
r146 72 75 0.039111
r147 70 101 0.00411102
r148 70 98 0.221667
r149 63 65 0.0800468
r150 62 63 0.245
r151 60 62 0.039111
r152 60 95 0.233333
r153 54 95 0.0532251
r154 53 72 0.536667
r155 53 73 0.186667
r156 28 79 0.0661111
r157 28 80 0.0661111
r158 19 97 0.0622222
r159 19 65 0.0661111
r160 10 89 0.0661111
r161 1 54 0.0661111
.ends

.subckt PM_NAND2D8%VSS 1 2 19 20 53 54 59 65 68 69 73 80 81 87 90
c91 90 0 0.0243974f
c92 89 0 0.0463594f
c93 88 0 0.0463594f
c94 87 0 0.0384987f
c95 81 0 0.0353299f
c96 80 0 0.0122136f
c97 73 0 0.141325f
c98 69 0 0.600156f
c99 68 0 0.139009f
c100 65 0 0.0395154f
c101 59 0 0.388354f
c102 54 0 3.6659f
c103 20 0 0.388401f
c104 19 0 3.6659f
r105 81 90 0.0600596
r106 80 90 0.14
r107 74 89 0.00677755
r108 73 80 0.039111
r109 72 89 0.0427352
r110 72 73 0.606667
r111 70 88 0.00677755
r112 69 89 0.00677755
r113 67 88 0.0427352
r114 67 68 0.606667
r115 65 68 0.039111
r116 65 87 0.14
r117 59 87 0.0600596
r118 54 88 0.00677755
r119 53 69 0.114333
r120 53 70 0.035
r121 20 81 0.0661111
r122 19 74 0.0886667
r123 2 59 0.0661111
r124 1 54 0.0886667
.ends

.subckt PM_NAND2D8%net10 1 10 11 40 46 48 50 56 57 62 64 65 67 68 69
c50 73 0 0.0746245f
c51 69 0 0.0383737f
c52 68 0 0.0555874f
c53 67 0 0.500076f
c54 65 0 0.0783807f
c55 64 0 0.0801296f
c56 62 0 0.0839798f
c57 57 0 0.0478057f
c58 56 0 0.469541f
c59 50 0 0.470256f
c60 48 0 0.0288473f
c61 46 0 0.0612374f
c62 40 0 0.340231f
r63 69 71 0.0816667
r64 66 67 0.735
r65 64 67 0.039111
r66 64 65 0.0933333
r67 62 66 0.039111
r68 62 73 0.0933333
r69 56 73 0.0532251
r70 50 65 0.0517064
r71 49 71 0.00411102
r72 48 57 0.0517064
r73 48 49 0.105
r74 46 69 0.00411102
r75 46 68 0.198333
r76 40 68 0.0550476
r77 11 50 0.0661111
r78 10 56 0.0661111
r79 10 57 0.0661111
r80 1 40 0.0661111
.ends

