* File: NOR2D1.cdl.pex
* Created: Sat Aug 17 14:54:54 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D1%IN1 3 6 9 11 13 14 16 20
c17 20 0 0.12912f
c18 16 0 0.279926f
c19 14 0 0.298637f
c20 13 0 0.0600168f
c21 11 0 0.858516f
r22 16 20 0.270232
r23 13 20 3
r24 11 13 0.279364
r25 10 11 7.7
r26 9 14 0.394048
r27 9 10 0.538462
r28 6 16 1.25
r29 3 14 1.25
.ends

.subckt PM_NOR2D1%IN2 3 6 9 10 12 14 15 17
c19 17 0 0.503641f
c20 15 0 0.0255094f
c21 14 0 0.199876f
c22 12 0 0.161658f
c23 10 0 0.219493f
c24 9 0 0.102032f
r25 16 17 4.83333
r26 14 17 0.279364
r27 14 15 3
r28 10 15 0.266186
r29 9 16 0.692308
r30 9 12 0.269048
r31 6 10 1.25
r32 3 12 1.25
.ends

.subckt PM_NOR2D1%VSS 1 4 9
c6 4 0 1.69564f
r7 1 4 0.14
r8 1 9 0.035
.ends

.subckt PM_NOR2D1%VDD 1 5
c8 1 0 1.73174f
r9 1 5 0.105
.ends

.subckt PM_NOR2D1%OUT 1 4 7 13 14 17 19
c16 19 0 0.206597f
c17 17 0 0.106983f
c18 14 0 0.116539f
r19 17 19 0.0311693
r20 14 19 0.0311693
r21 13 19 0.0245
r22 7 13 0.028
r23 4 17 0.0155556
r24 1 14 0.0622222
.ends

