* File: NOR2D2.cdl.pex
* Created: Sat Aug 17 14:56:57 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D2%IN1 3 6 9 11 13 14 16 20
c19 20 0 0.201142f
c20 16 0 0.454058f
c21 14 0 0.461473f
c22 13 0 0.0600168f
c23 11 0 0.847463f
r24 16 20 0.270232
r25 13 20 4.66667
r26 11 13 0.279364
r27 10 11 7.7
r28 9 14 0.394048
r29 9 10 0.538462
r30 6 16 2.5
r31 3 14 2.5
.ends

.subckt PM_NOR2D2%IN2 3 6 9 10 12 14 15 17
c20 17 0 0.487027f
c21 15 0 0.0257175f
c22 14 0 0.275933f
c23 12 0 0.292498f
c24 10 0 0.400262f
c25 9 0 0.102032f
r26 16 17 4.83333
r27 14 17 0.279364
r28 14 15 4.66667
r29 10 15 0.266186
r30 9 16 0.692308
r31 9 12 0.269048
r32 6 10 2.5
r33 3 12 2.5
.ends

.subckt PM_NOR2D2%VSS 1 6 15
c12 6 0 1.47715f
c13 1 0 0.913232f
r14 1 6 0.149333
r15 1 15 0.0536667
.ends

.subckt PM_NOR2D2%VDD 1 6
c12 6 0 0.399918f
c13 1 0 2.05154f
r14 1 6 0.170333
.ends

.subckt PM_NOR2D2%OUT 1 6 11 20 21 33
c25 33 0 0.158672f
c26 21 0 0.22226f
c27 11 0 0.145045f
c28 6 0 0.205324f
r29 27 33 0.0311693
r30 21 33 0.0311693
r31 20 33 0.0245
r32 11 20 0.028
r33 6 27 0.0466667
r34 1 21 0.0466667
.ends

