* File: NOR2D4.cdl.pex
* Created: Sat Aug 17 14:58:13 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D4%IN1 3 6 9 11 13 14 16 20
c18 20 0 0.345188f
c19 16 0 0.802251f
c20 14 0 0.787146f
c21 13 0 0.0600168f
c22 11 0 0.9545f
r23 16 20 0.270232
r24 13 20 8
r25 11 13 0.279364
r26 10 11 7.7
r27 9 14 0.269048
r28 9 10 0.692308
r29 6 16 5
r30 3 14 5
.ends

.subckt PM_NOR2D4%IN2 3 6 9 10 12 14 15 17
c19 17 0 0.587291f
c20 15 0 0.0260838f
c21 14 0 0.428048f
c22 12 0 0.554177f
c23 10 0 0.760009f
c24 9 0 0.102032f
r25 16 17 4.83333
r26 14 17 0.279364
r27 14 15 8
r28 10 15 0.266186
r29 9 16 0.692308
r30 9 12 0.269048
r31 6 10 5
r32 3 12 5
.ends

.subckt PM_NOR2D4%VSS 1 10 27
c11 10 0 2.52049f
c12 1 0 1.26095f
r13 1 10 0.168
r14 1 27 0.063
.ends

.subckt PM_NOR2D4%VDD 1 8
c12 8 0 0.399918f
c13 1 0 3.49201f
r14 1 8 0.273
.ends

.subckt PM_NOR2D4%OUT 1 10 19 34 35 41 55
c26 55 0 0.170168f
c27 41 0 0.157751f
c28 35 0 0.43366f
c29 19 0 0.157751f
c30 10 0 0.401966f
r31 45 55 0.0311693
r32 35 55 0.0311693
r33 34 55 0.0245
r34 19 51 0.0311693
r35 19 34 0.028
r36 19 41 0.0311693
r37 19 51 0.132222
r38 19 41 0.132222
r39 10 45 0.0622222
r40 1 35 0.0622222
.ends

