* File: OR2D1.cdl.pex
* Created: Wed Jan 15 19:04:35 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OR2D1%net12 1 4 7 10 18 23 26 27 32 38 46 47
c42 47 0 0.175649f
c43 46 0 0.0774485f
c44 38 0 0.0395246f
c45 32 0 0.441444f
c46 27 0 0.251251f
c47 26 0 0.0938498f
c48 23 0 0.285353f
c49 18 0 0.122879f
c50 1 0 0.173389f
r51 38 49 0.0178475
r52 37 47 0.0352781
r53 37 38 0.0933333
r54 36 41 0.0456134
r55 36 46 0.151667
r56 26 49 0.0505556
r57 26 28 0.488662
r58 26 27 0.488662
r59 18 23 0.831548
r60 18 28 2
r61 15 32 0.891144
r62 15 27 4.16667
r63 10 23 1.25
r64 7 41 0.02625
r65 4 47 0.0466667
r66 4 46 0.0587017
r67 1 41 0.02625
.ends

.subckt PM_OR2D1%IN1 3 6 9 13 15
c18 15 0 0.309679f
c19 13 0 0.332146f
c20 9 0 0.79228f
r21 13 17 0.831548
r22 11 15 0.831548
r23 10 17 0.049177
r24 9 11 2.58333
r25 9 10 5.08333
r26 6 15 1.25
r27 3 13 1.25
.ends

.subckt PM_OR2D1%IN2 3 6 9 10 15
c23 15 0 0.253754f
c24 10 0 0.318687f
c25 9 0 0.24355f
r26 15 18 0.831548
r27 12 18 0.049177
r28 10 13 0.831548
r29 9 13 1.25
r30 9 12 3.58333
r31 6 10 1.25
r32 3 15 1.25
.ends

.subckt PM_OR2D1%VSS 1 4 9 12
c13 12 0 0.928057f
c14 9 0 1.63001f
c15 4 0 0.228164f
r16 4 9 0.172667
r17 4 12 0.0606667
r18 1 12 0.0933333
.ends

.subckt PM_OR2D1%VDD 1 2 9
c14 9 0 0.618471f
c15 2 0 1.70379f
c16 1 0 0.572788f
r17 2 9 0.154
r18 1 9 0.154
.ends

.subckt PM_OR2D1%OUT 1 3 8
c10 8 0 0.975256f
r11 3 8 0.0314518
r12 1 8 0.0314518
.ends

