* File: OR2D2.cdl.pex
* Created: Wed Jan 15 19:37:16 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OR2D2%net2 1 6 14 22 26 35 38 39 43 47 48 52 57 58 59 63 66
c61 66 0 0.0732395f
c62 63 0 0.0708403f
c63 59 0 0.0738284f
c64 58 0 0.25817f
c65 57 0 0.0844009f
c66 52 0 0.185934f
c67 48 0 0.222709f
c68 47 0 0.356101f
c69 43 0 0.0288758f
c70 39 0 0.0920466f
c71 38 0 0.112233f
c72 35 0 0.394903f
c73 26 0 0.0812849f
c74 22 0 0.0841193f
r75 63 67 0.0178475
r76 62 63 0.14
r77 59 66 0.061035
r78 58 62 0.0492781
r79 57 66 0.145833
r80 43 48 0.0744335
r81 38 67 0.0505556
r82 38 40 0.488662
r83 38 39 0.488662
r84 26 35 0.831548
r85 26 40 1.33333
r86 23 43 0.435711
r87 23 39 2
r88 22 43 0.435711
r89 21 47 0.891144
r90 21 22 2.33333
r91 14 35 2.5
r92 6 58 0.0233333
r93 6 59 0.0163333
r94 1 57 0.077581
r95 1 52 0.00291667
r96 1 52 0.0495833
.ends

.subckt PM_OR2D2%IN1 3 6 9 13 15
c18 15 0 0.4801f
c19 13 0 0.509672f
c20 9 0 0.777961f
r21 13 17 0.831548
r22 11 15 0.831548
r23 10 17 0.049177
r24 9 11 1.75
r25 9 10 5.91667
r26 6 15 2.5
r27 3 13 2.5
.ends

.subckt PM_OR2D2%IN2 3 6 9 10 15
c23 15 0 0.391702f
c24 10 0 0.52414f
c25 9 0 0.231978f
r26 15 18 0.768129
r27 12 18 0.050681
r28 10 13 0.831548
r29 9 13 0.75
r30 9 12 4.08333
r31 6 10 2.5
r32 3 15 2.5
.ends

.subckt PM_OR2D2%VDD 1 2 11
c18 11 0 0.785309f
c19 2 0 1.8699f
c20 1 0 0.934133f
r21 2 11 0.217
r22 1 11 0.191333
.ends

.subckt PM_OR2D2%VSS 1 6 15 16 21 30 37 43
c37 43 0 0.681971f
c38 37 0 0.0809944f
c39 30 0 0.157342f
c40 16 0 0.183328f
c41 15 0 1.24004f
c42 6 0 0.608494f
c43 1 0 0.934624f
r44 31 43 0.00677755
r45 30 37 0.110112
r46 29 43 0.0427352
r47 29 30 0.583333
r48 22 43 0.00677755
r49 21 22 0.00233333
r50 16 37 0.0155556
r51 15 31 0.0653333
r52 6 21 0.0816667
r53 1 6 0.161
.ends

.subckt PM_OR2D2%OUT 1 3 9 10 16
c20 16 0 0.28194f
c21 10 0 0.34639f
c22 9 0 0.471491f
r23 16 23 0.0800468
r24 10 22 0.0800468
r25 9 23 0.256667
r26 9 22 0.42
r27 3 10 0.0505556
r28 1 16 0.0505556
.ends

