* File: OR2D4.cdl.pex
* Created: Wed Jan 15 20:19:54 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OR2D4%net11 1 4 8 12 21 24 25 29 33 34 37 48 63 64 70 71
c62 71 0 0.0239492f
c63 70 0 0.290287f
c64 64 0 0.0779799f
c65 63 0 0.0598133f
c66 48 0 0.383021f
c67 37 0 0.202398f
c68 34 0 0.42075f
c69 33 0 0.585473f
c70 29 0 0.0337133f
c71 25 0 0.0835f
c72 24 0 0.104717f
c73 21 0 0.656078f
c74 12 0 0.0608134f
c75 8 0 0.0489388f
r76 70 76 0.0417772
r77 70 71 0.956667
r78 63 71 0.039111
r79 62 64 0.0233216
r80 62 63 0.676667
r81 48 62 0.0584904
r82 37 64 0.124444
r83 29 34 0.0744335
r84 24 76 0.0233333
r85 24 26 0.512484
r86 24 25 0.512484
r87 12 21 0.831548
r88 12 26 0.5
r89 9 29 0.435711
r90 9 25 2.83333
r91 8 29 0.435711
r92 7 33 0.891144
r93 7 8 2.33333
r94 4 21 5
r95 1 48 0.00291667
.ends

.subckt PM_OR2D4%IN1 3 5 13 18
c16 18 0 0.871475f
c17 13 0 0.827679f
c18 5 0 0.800936f
r19 7 13 0.831548
r20 6 18 0.891144
r21 5 7 3.33333
r22 5 6 4.33333
r23 3 13 5
.ends

.subckt PM_OR2D4%IN2 3 5 6 9 24 27 28
c33 28 0 0.269656f
c34 27 0 0.312935f
c35 24 0 0.0380519f
c36 9 0 0.0252824f
c37 6 0 0.911664f
c38 5 0 0.0244987f
r39 24 28 0.0744335
r40 10 24 0.435711
r41 9 24 0.435711
r42 8 27 0.891144
r43 8 9 2.33333
r44 6 11 0.831548
r45 5 11 1.5
r46 5 10 0.5
r47 3 6 5
.ends

.subckt PM_OR2D4%VDD 1 2 15
c18 15 0 0.831435f
c19 2 0 2.50548f
c20 1 0 1.57365f
r21 2 15 0.217
r22 1 15 0.212333
.ends

.subckt PM_OR2D4%VSS 1 2 3 4 5 22 37 43 46 59 69 71 72
c42 72 0 0.0170801f
c43 71 0 1.52533e-21
c44 69 0 0.0208971f
c45 59 0 0.0218363f
c46 46 0 0.0796272f
c47 43 0 0.0108299f
c48 37 0 0.256492f
c49 22 0 0.636707f
c50 5 0 0.414403f
c51 4 0 1.97836f
c52 2 0 0.647413f
c53 1 0 1.57415f
r54 59 72 0.0684127
r55 58 71 0.0296412
r56 58 72 0.116667
r57 46 71 0.00770322
r58 45 46 0.723333
r59 43 71 0.0296412
r60 43 69 0.116667
r61 37 69 0.0684127
r62 22 45 0.0427352
r63 22 23 0.00677755
r64 22 47 0.00677755
r65 5 59 0.0661111
r66 4 47 0.084
r67 3 37 0.0505556
r68 2 23 0.0746667
r69 1 2 0.172667
.ends

.subckt PM_OR2D4%OUT 1 3 13 14 24
c20 24 0 0.472678f
c21 14 0 0.516025f
c22 13 0 0.480753f
r23 24 35 0.0800468
r24 14 34 0.0800468
r25 13 35 0.28
r26 13 34 0.396667
r27 3 14 0.0661111
r28 1 24 0.0661111
.ends

