* File: OR2D8.cdl.pex
* Created: Wed Jan 15 20:36:24 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OR2D8%net11 1 10 23 26 27 40 41 46 47 69 73 74 78 82 87 88 103 122
+ 123 129 130
c77 130 0 0.0244636f
c78 129 0 0.57705f
c79 123 0 0.0779799f
c80 122 0 0.0940909f
c81 103 0 0.0935178f
c82 88 0 0.146098f
c83 87 0 0.106822f
c84 82 0 0.0519917f
c85 78 0 0.0338472f
c86 74 0 0.0437241f
c87 73 0 0.0599625f
c88 69 0 0.0624009f
c89 47 0 0.638595f
c90 46 0 0.797969f
c91 41 0 0.197942f
c92 40 0 0.232811f
c93 27 0 0.371074f
c94 26 0 0.887147f
c95 23 0 0.26111f
c96 10 0 0.325194f
c97 1 0 0.378093f
r98 129 135 0.0417772
r99 129 130 1.89
r100 122 130 0.039111
r101 121 123 0.0233216
r102 121 122 0.676667
r103 103 121 0.0584904
r104 87 135 0.0233333
r105 87 89 0.512484
r106 87 88 0.512484
r107 74 90 0.831548
r108 73 82 0.831548
r109 73 89 0.5
r110 70 88 2.83333
r111 69 78 0.831548
r112 69 70 0.049177
r113 68 90 0.049177
r114 68 69 2.33333
r115 41 47 10.5
r116 41 78 5
r117 40 46 10.5
r118 40 74 5
r119 27 123 0.14
r120 23 26 10.5
r121 23 82 5
r122 10 103 0.00291667
r123 1 10 0.0875
.ends

.subckt PM_OR2D8%IN1 3 6 9 12 17 21 25
c24 25 0 0.100818f
c25 21 0 0.116393f
c26 17 0 0.881475f
c27 12 0 1.10364f
c28 9 0 0.34749f
c29 6 0 1.15306f
c30 3 0 0.361599f
r31 21 29 0.831548
r32 19 25 0.831548
r33 18 29 0.049177
r34 17 19 3.58333
r35 17 18 4.08333
r36 9 12 10.5
r37 9 25 5
r38 3 6 10.5
r39 3 21 5
.ends

.subckt PM_OR2D8%IN2 3 6 11 12 17 18 23 27 29
c38 29 0 0.550994f
c39 27 0 0.545862f
c40 23 0 0.0587318f
c41 18 0 0.461488f
c42 17 0 0.0563442f
c43 6 0 0.867965f
c44 3 0 0.450135f
r45 27 32 0.831548
r46 23 29 0.831548
r47 23 24 0.049177
r48 22 32 0.049177
r49 22 23 2.33333
r50 18 25 0.831548
r51 17 25 1.08333
r52 17 24 0.916667
r53 12 29 5
r54 11 27 5
r55 6 18 5
r56 3 6 10.5
.ends

.subckt PM_OR2D8%VDD 1 2 3 4 29
c28 29 0 1.05554f
c29 4 0 3.15028f
c30 3 0 1.36054f
c31 2 0 1.46042f
c32 1 0 1.5948f
r33 3 4 0.14
r34 3 29 0.347667
r35 2 29 0.268333
r36 1 2 0.14
.ends

.subckt PM_OR2D8%net12 1 3
c19 3 0 0.518106f
c20 1 0 0.224594f
r21 1 3 0.233333
.ends

.subckt PM_OR2D8%VSS 1 10 19 20 37 38 55 56 105 120 126 129 142 152 154 155
c58 155 0 0.0170801f
c59 154 0 1.52533e-21
c60 152 0 0.0208971f
c61 142 0 0.0218363f
c62 129 0 0.0892157f
c63 126 0 0.0108299f
c64 120 0 0.525626f
c65 105 0 0.671479f
c66 56 0 0.590891f
c67 55 0 2.54177f
c68 38 0 0.21584f
c69 37 0 0.93277f
c70 19 0 1.30808f
c71 10 0 1.46042f
c72 1 0 1.59529f
r73 142 155 0.0684127
r74 141 154 0.0296412
r75 141 155 0.116667
r76 129 154 0.00770322
r77 128 129 0.723333
r78 126 154 0.0296412
r79 126 152 0.116667
r80 120 152 0.0684127
r81 105 128 0.0427352
r82 105 106 0.00677755
r83 105 130 0.00677755
r84 38 56 0.233333
r85 38 142 0.0661111
r86 37 55 0.14
r87 37 130 0.084
r88 20 120 0.0661111
r89 19 106 0.084
r90 10 19 0.182
r91 1 10 0.14
.ends

.subckt PM_OR2D8%OUT 1 2 3 12 41 42 52
c30 52 0 0.215967f
c31 42 0 0.291737f
c32 41 0 0.54717f
c33 12 0 0.354135f
c34 3 0 0.224288f
c35 2 0 0.407515f
c36 1 0 0.256711f
r37 52 71 0.0800468
r38 42 70 0.0800468
r39 41 71 0.221667
r40 41 70 0.455
r41 12 42 0.0661111
r42 3 12 0.233333
r43 2 52 0.0661111
r44 1 2 0.233333
.ends

